US04089976
Preparation of 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea.
Equimolar quantities of 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine and ethylcarbamate are mixed and heated until ethanol is no longer released. The crude product, 1,2,3,4-tetrahydro-4-oxo-1-naphthylurea is washed with water then with cold ethanol and dried.

reactant | 1,2,3,4-tetrahydro-4-oxo-1-naphthylamine | O=C1CCC(C2=CC=CC=C12)N | C10H11NO
reactant | ethylcarbamate | C(C)NC([O-])=O
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-4-oxo-1-naphthylurea | O=C1CCC(C2=CC=CC=C12)NC(=O)N | C11H12N2O2
